US07153848B2
Methyl 11-cyclohexyl-6-hydroxy-6H-isoindolo[2,1-a]indole-3-carboxylate (3; R1=Me, R2=H).
A stirred mixture of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (10.1 g, 30 mmol), 2-formylphenylboronic acid (5.4 g, 36 mmol), LiCl (3.8 g (90 mmol) and Pd (PPh3)4 (1.6 g, 1.38 mmol) in 1M Na2CO3 (40 mL) and 1:1 EtOH-toluene (180 mL) was heated under nitrogen at 85° C. for 3 hours. Reaction mixture was allowed to cool and then extracted with EtOAc (2×100 mL), washed with water, brine and then dried (MgSO4). Evaporation of solvents afforded 13.3 g of crude product which was triturated with DCM and hexanes to provide pure desired product (7.52 g, 70%). LC-MS: m/e 360 (M−H)−; 344 (M−17)+. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.33–1.60 (m, 4 H) 1.77–2.01 (m, 6 H) 2.80 (d, J=11.83 Hz, 1 H) 3.02–3.18 (m, 1 H) 3.89 (s, 3 H) 6.49 (d, J=11.33 Hz, 1 H) 7.34 (t, J=7.55 Hz, 1 H) 7.46 (t, J=7.55 Hz, 1 H) 7.62 (d, J=7.30 Hz, 1 H) 7.66–7.74 (m, 2 H) 7.77 (d, J=7.81 Hz, 1 H) 8.21 (s, 1 H).

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 30 mmol, 10.1 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | 2-formylphenylboronic acid | 36 mmol, 5.4 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | LiCl | [Li+].[Cl-]
reactant | EtOH toluene | 180 mL | CCO.C1(=CC=CC=C1)C
solvent | Na2CO3 | 1M, 40 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd (PPh3)4 | 1.38 mmol, 1.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 11-cyclohexyl-6-hydroxy-6H-isoindolo[2,1-a]indole-3-carboxylate | 7.52 g, 70% | C1(CCCCC1)C1=C2N(C3=CC(=CC=C13)C(=O)OC)C(C1=CC=CC=C12)O | C23H23NO3
